Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / dogs, cats, ___, 
feathers
 
Attending: ___
 
Chief Complaint:
Lumbar Stenosis 
 
Major Surgical or Invasive Procedure:
___ L4-L5 laminectomy 
 
History of Present Illness:
Ms. ___ is a ___
female who presents with pain on the left side.  The pain is in
the inside of the leg and on the posterior side and the thigh 
and
the calf.  Having it assigned to a nerve root, I would say it is
in the L4 and S1 nerve root distribution.  On the scale of ___,
the pain is a 7.  Lower back pain is constant, sitting and
standing, the pain is also 7 on a ___ scale.  It does not seem
to be mechanical, 50% of the pain is in the legs, 50% of the 
pain
is in her back.  She denies any numbness, but endorses
paresthesias.  She had three episodes of bladder incontinence.

Over the last year, she tried two epidurals, SI joint injection,
acupuncture, physical therapy, chiropractor and Pain Clinic
intervention to no avail.

 
Past Medical History:
hypertension, asthma and
depression. tonsillectomy, tubal
ligation, carpal tunnel and trigger finger release, abnormal
movement in feet.

 
Social History:
___
Family History:
NC
 
Physical Exam:
On Discharge: 
NAD
AOx3
ambulating independently
incision with minimal surrounding erythema without drainage
bilateral lower extremities: ___ strength, sensation intact to 
light touch
 
Pertinent Results:
Please see ___ for relevant imaging reports. 
 
Brief Hospital Course:
#Lumbar Stenosis:
The patient presented on ___ for an elective L4-L5 
laminectomy. The operative course was uncomplicated. Please see 
Dr. ___  operative note for further details regarding the 
case. A JP drain to bulb suction was left in place post 
operatively and she was extubated and recovered in the PACU. 
When stable she was transferred to the floor for close 
neurological monitoring. JP drain was dc POD1. The patient was 
voiding spontaneously and pain is well controlled on oral 
medications. The patient was discharged to home on POD1 and is 
in agreement with the plan.
 
Medications on Admission:
Albuterol, alprazolam, advair, metaxalone, metoprolol tartrate, 
montelukast, oxcarbazepine, trazodone, calcium carbonate. 
 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN for fever or pain 
RX *acetaminophen 325 mg 2 capsule(s) by mouth every 6 hours 
Disp #*120 Capsule Refills:*0 
2.  Diazepam 2 mg PO Q8H:PRN muscle spasm 
RX *diazepam 2 mg 1 tablet by mouth every 8 hours Disp #*20 
Tablet Refills:*0 
3.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*60 Capsule Refills:*0 
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth every 4 hours Disp #*40 
Tablet Refills:*0 
5.  Albuterol Inhaler 2 PUFF IH QID:PRN SOB  
6.  ALPRAZolam 0.5 mg PO BID:PRN anxiety  
7.  Metoprolol Tartrate 25 mg PO BID  
8.  Montelukast 10 mg PO DAILY  
9.  TraZODone 50 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Lumbar stenosis

 
Discharge Condition:
NAD
AOx3
ambulating independently
incision with minimal surrounding erythema without drainage
bilateral lower extremities: ___ strength, sensation intact to 
light touch

 
Discharge Instructions:
Surgery
•Your dressing may come off on the second day after surgery. 
•Your incision is closed with staples or sutures. You will need 
suture/staple removal. Please keep your incision dry until 
suture/staple removal.
•Do not apply any lotions or creams to the site. 
•Please avoid swimming for two weeks after suture/staple 
removal.
•Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

Activity
•We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
•You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
•No driving while taking any narcotic or sedating medication. 
•No contact sports until cleared by your neurosurgeon. 

Medications
•You may take Ibuprofen/ Motrin for pain.
•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
•It is important to increase fluid intake while taking pain 
medications. We also recommend a stool softener like Colace. 
Pain medications can cause constipation. 

When to Call Your Doctor at ___ for:
•Severe pain, swelling, redness or drainage from the incision 
site. 
•Fever greater than 101.5 degrees Fahrenheit
•New weakness or changes in sensation in your arms or legs.
 
Followup Instructions:
___